.ends

* set gnd and power
Vgnd VGND 0 0
Vdd VPWR VGND 1.8

* create pulse
Va A VGND pulse(0 1.8 300p 10p 10p 300p 600p)
Vb B VGND pulse(0 1.8 1p 10p 10p 1n 2n)
.tran 10e-12 4e-09 0e-00

.control
run
set color0 = white
set color1 = black
plot A B+0.2 S+0.4 C+0.6
plot i(Vdd)
.endc

.end
